*A Simple MOSFET Gain Stage. NOISE Analysis.

M1 3 2 0 0 nmos w=4u l=1u 
Rsource 1 2 100k
Rload 3 vdd 25k

Vdd1 vdd 0 1 
Vin 1 0 1.44 ac .1 sin(0 1 1e+5 0 0) 

.options device temp=27
.noise v(3) Vin dec 10 100 1000Meg  1

* Verify that case does not matter in the device names or noise type names
* for the DNO and DNI operators.
.print noise {SQRT(ABS(onoise))} {SQRT(ABS(inoise))}
+ {SQRT(ABS(DNO(rsource)))}
+ {SQRT(ABS(DNO(m1,white_g_GP_rgate)))}
+ {SQRT(ABS(DNO(m1,white_S_si_rsource)))}	
+ {SQRT(ABS(DNO(m1,white_d_DI_rdrain)))}
+ {SQRT(ABS(DNO(m1,white_BP_bi_rbulk)))}	
+ {SQRT(ABS(DNO(m1,White_bs_bi_rjuns)))}	
+ {SQRT(ABS(DNO(m1,white_BD_bi_rjund)))}	
+ {SQRT(ABS(DNO(m1,white_b_Bi_rwell)))}	
+ {SQRT(ABS(DNO(m1,white_NOI2_gnd_igig)))}	
+ {SQRT(ABS(DNO(m1,white_dI_si_idid)))}	
+ {SQRT(ABS(DNO(m1,flicker_di_sI_flicker)))}	
+ {SQRT(ABS(DNO(m1,white_gp_si_Igs)))}	
+ {SQRT(ABS(DNO(m1,white_gp_Di_igd)))}	
+ {SQRT(ABS(DNO(m1,white_BS_si_ibs)))}	
+ {SQRT(ABS(DNO(m1,white_bd_Di_ibd)))}	
+ {SQRT(ABS(DNO(m1,white_di_si_idIDedge)))}	
+ {SQRT(ABS(DNO(M1)))}
+ {SQRT(ABS(DNO(rload)))}
+ {SQRT(ABS(DNI(rsource)))}
+ {SQRT(ABS(DNI(m1,white_g_gp_Rgate)))}
+ {SQRT(ABS(DNI(m1,white_s_Si_rsource)))}	
+ {SQRT(ABS(DNI(m1,white_d_dI_rdrain)))}
+ {SQRT(ABS(DNI(m1,white_bP_bi_rbulk)))}	
+ {SQRT(ABS(DNI(m1,white_Bs_bi_rjuns)))}	
+ {SQRT(ABS(DNI(m1,white_bD_bi_rjund)))}	
+ {SQRT(ABS(DNI(m1,white_b_bi_RWell)))}	
+ {SQRT(ABS(DNI(m1,white_noi2_gNd_igig)))}	
+ {SQRT(ABS(DNI(m1,white_Di_si_idid)))}	
+ {SQRT(ABS(DNI(m1,flicker_di_si_FLICKER)))}	
+ {SQRT(ABS(DNI(m1,white_gp_si_igS)))}	
+ {SQRT(ABS(DNI(m1,white_gp_di_iGd)))}	
+ {SQRT(ABS(DNI(m1,white_bs_si_ibS)))}	
+ {SQRT(ABS(DNI(m1,white_bD_dI_ibd)))}	
+ {SQRT(ABS(DNI(m1,white_Di_si_ididEDGE)))}	
+ {SQRT(ABS(DNI(m1)))}
+ {SQRT(ABS(DNI(rload)))}		

.model nmos NMOS LEVEL=103
+ SWIGATE=1
+ SWIMPACT=1
+ SWGIDL=1
+ SWJUNCAP=3
+ LEVEL=103.0
+ TR=27.0
+ DTA=0
+ SWGEO=1
+ QMC=1.0
+ LVARO=-10.0E-9
+ LVARL=0
+ LVARW=0
+ LAP=10.0E-9
+ WVARO=10.0E-9
+ WVARL=0
+ WVARW=0
+ WOT=0
+ DLQ=0
+ DWQ=0
+ VFBO=-1.1
+ VFBL=0
+ VFBW=0
+ VFBLW=0
+ STVFBO=5.0E-4
+ STVFBL=0
+ STVFBW=0
+ STVFBLW=0
+ TOXO=1.5E-9
+ EPSROXO=3.9
+ NSUBO=3.0E+23
+ NSUBW=0
+ WSEG=1.5E-10
+ NPCK=1.0E+24
+ NPCKW=0
+ WSEGP=0.9E-8
+ LPCK=5.5E-8
+ LPCKW=0
+ FOL1=2.0E-2
+ FOL2=5.0E-6
+ FACNEFFACO=0.8
+ FACNEFFACL=0
+ FACNEFFACW=0
+ FACNEFFACLW=0
+ GFACNUDO=0.1
+ GFACNUDL=0
+ GFACNUDLEXP=1
+ GFACNUDW=0
+ GFACNUDLW=0
+ VSBNUDO=0
+ DVSBNUDO=1
+ VNSUBO=0
+ NSLPO=0.05
+ DNSUBO=0
+ DPHIBO=0
+ DPHIBL=0
+ DPHIBLEXP=1.0
+ DPHIBW=0
+ DPHIBLW=0
+ DELVTACO=0
+ DELVTACL=0
+ DELVTACLEXP=1
+ DELVTACW=0
+ DELVTACLW=0
+ NPO=1.5E+26
+ NPL=10.0E-18
+ CTO=5.0E-15
+ CTL=4.0E-2
+ CTLEXP=0.6
+ CTW=0
+ CTLW=0
+ TOXOVO=1.5E-9
+ TOXOVDO=2.0E-9
+ LOV=10.0E-9
+ LOVD=0
+ NOVO=7.5E+25
+ NOVDO=5.0e+25
+ CFL=3.0E-4
+ CFLEXP=2.0
+ CFW=5.0E-3
+ CFBO=0.3
+ UO=3.5E-2
+ FBET1=-0.3
+ FBET1W=0.15
+ LP1=1.5E-7
+ LP1W=-2.5E-2
+ FBET2=50.0
+ LP2=8.5E-10
+ BETW1=5.0E-2
+ BETW2=-2.0E-2
+ WBET=5.0E-10
+ STBETO=1.75
+ STBETL=-2.0E-2
+ STBETW=-2.0E-3
+ STBETLW=-3.0E-3
+ MUEO=0.6
+ MUEW=-1.2E-2
+ STMUEO=0.5
+ THEMUO=2.75
+ STTHEMUO=-0.1
+ CSO=1.0E-2
+ CSL=0
+ CSLEXP=1
+ CSW=0
+ CSLW=0
+ STCSO=-5.0
+ XCORO=0.15
+ XCORL=2.0E-3
+ XCORW=-3.0E-2
+ XCORLW=-3.5E-3
+ STXCORO=1.25
+ FETAO=1
+ RSW1=50
+ RSW2=5.0E-2
+ STRSO=-2.0
+ RSBO=0
+ RSGO=0
+ THESATO=1.0E-6
+ THESATL=0.6
+ THESATLEXP=0.75
+ THESATW=-1.0E-2
+ THESATLW=0
+ STTHESATO=1.5
+ STTHESATL=-2.5E-2
+ STTHESATW=-2.0E-2
+ STTHESATLW=-5.0E-3
+ THESATBO=0.15
+ THESATGO=0.75
+ AXO=20
+ AXL=0.2
+ ALPL=7.0E-3
+ ALPLEXP=0.6
+ ALPW=5.0E-2
+ ALP1L1=2.5E-2
+ ALP1LEXP=0.4
+ ALP1L2=0.1
+ ALP1W=8.5E-3
+ ALP2L1=0.5
+ ALP2LEXP=0
+ ALP2L2=0.5
+ ALP2W=-0.2
+ VPO=0.25
+ A1O=1.0
+ A1L=0
+ A1W=0
+ A2O=10.0
+ STA2O=-0.5
+ A3O=1.0
+ A3L=0
+ A3W=0
+ A4O=0
+ A4L=0
+ A4W=0
+ GCOO=5.0
+ IGINVLW=50.0
+ IGOVW=10.0
+ IGOVDW=0
+ STIGO=1.5
+ GC2O=1.0
+ GC3O=-1.0
+ CHIBO=3.1
+ AGIDLW=50.0
+ AGIDLDW=0
+ BGIDLO=35.0
+ BGIDLDO=41
+ STBGIDLO=-5.0E-4
+ STBGIDLDO=0
+ CGIDLO=0.15
+ CGIDLDO=0
+ CGBOVL=0
+ CFRW=5.0E-17
+ CFRDW=0
+ FNTO=1
+ NFALW=8.0E+22
+ NFBLW=3.0E7
+ NFCLW=0
+ RGO=0
+ RINT=0
+ RVPOLY=0
+ RSHG=0
+ DLSIL=0
+ RBULKO=0
+ RWELLO=0
+ RJUNDO=0
+ RJUNSO=0
+ SWJUNEXP=0
+ TRJ=27.0
+ IMAX=1.0E3
+ VJUNREF=2.5
+ FJUNQ=0.03
+ CJORBOT=1.0E-3
+ CJORSTI=1.0E-9
+ CJORGAT=0.5E-9
+ VBIRBOT=0.75
+ VBIRSTI=1.0
+ VBIRGAT=0.75
+ PBOT=0.35
+ PSTI=0.35
+ PGAT=0.6
+ PHIGBOT=1.16
+ PHIGSTI=1.16
+ PHIGGAT=1.16
+ IDSATRBOT=5.0E-9
+ IDSATRSTI=1.0E-18
+ IDSATRGAT=1.0E-18
+ CSRHBOT=5.0E2
+ CSRHSTI=0
+ CSRHGAT=1.0E3
+ XJUNSTI=1.0E-8
+ XJUNGAT=1.0E-9
+ CTATBOT=5.0E2
+ CTATSTI=0
+ CTATGAT=1.0E3
+ MEFFTATBOT=0.25
+ MEFFTATSTI=0.25
+ MEFFTATGAT=0.25
+ CBBTBOT=1.0E-12
+ CBBTSTI=1.0E-18
+ CBBTGAT=1.0E-18
+ FBBTRBOT=1.0E9
+ FBBTRSTI=1.0E9
+ FBBTRGAT=1.0E9
+ STFBBTBOT=-1.0E-3
+ STFBBTSTI=-1.0E-3
+ STFBBTGAT=-1.0E-2
+ VBRBOT=10.0
+ VBRSTI=10.0
+ VBRGAT=10.0
+ PBRBOT=3
+ PBRSTI=4
+ PBRGAT=3
+ VJUNREFD=2.5
+ FJUNQD=0.03
+ CJORBOTD=1.0E-3
+ CJORSTID=1.0E-9
+ CJORGATD=1.0E-9
+ VBIRBOTD=1.0
+ VBIRSTID=1.0
+ VBIRGATD=1.0
+ PBOTD=0.5
+ PSTID=0.5
+ PGATD=0.5
+ PHIGBOTD=1.16
+ PHIGSTID=1.16
+ PHIGGATD=1.16
+ IDSATRBOTD=1.0E-12
+ IDSATRSTID=1.0E-18
+ IDSATRGATD=1.0E-18
+ CSRHBOTD=1.0E+2
+ CSRHSTID=1.0E-4
+ CSRHGATD=1.0E-4
+ XJUNSTID=1.0E-7
+ XJUNGATD=1.0E-7
+ CTATBOTD=1.0E+2
+ CTATSTID=1.0E-4
+ CTATGATD=1.0E-4
+ MEFFTATBOTD=0.25
+ MEFFTATSTID=0.25
+ MEFFTATGATD=0.25
+ CBBTBOTD=1.0E-12
+ CBBTSTID=1.0E-18
+ CBBTGATD=1.0E-18
+ FBBTRBOTD=1.0E9
+ FBBTRSTID=1.0E9
+ FBBTRGATD=1.0E9
+ STFBBTBOTD=-1.0E-3
+ STFBBTSTID=-1.0E-3
+ STFBBTGATD=-1.0E-3
+ VBRBOTD=10.0
+ VBRSTID=10.0
+ VBRGATD=10.0
+ PBRBOTD=4
+ PBRSTID=4
+ PBRGATD=4

.end

